US05459152
Preparation of 3-(Pyridin-3-yl)-7-[1-N-(2-hydroxyethyl)carbamoyl-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole
The desired compound was prepared according to the method of Example 37 except substituting 3-(pyridin-3-yl)-7-[6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole, prepared as in Example 28, for 3-(Pyridin-3-yl)-7-(6-phenylmethoxyindol-3-yl)carbonyl-1H,3H-pyrrolo[1,2-c]thiazole, and substituting ethanolamine for amounts. 1H NMR (DMSO-d6, 300 MHz) δ3.32-3.42 (m, 2H), 3.60 (q, 2H, J=6Hz), 4.51 (d, 1H, J=15Hz), 4.68 (dd, 1H, J=2, 15Hz), 4.88 (t, 1H, J=6Hz), 6.79 (d, 1H, J=3Hz), 6.81 (d, 1H, J=1Hz), 7.09 (d, 1H, J=3Hz,) 7.32 (t, 2H, J=9 Hz), 7.45 (dd, 1H, J=5, 8 Hz), 7.61 (dd, 1H, J=1, 8 Hz), 7.69 (dt, 1H, J=1, 8 Hz), 7.71-7.76 (m, 2H), 8.32 (d, 1H, J=8 Hz), 8.51 (d, 1H, J=1 Hz). 8.56-8.61 (m, 3H), 8.47 (t, 1H, J=6 Hz). MS (FAB) m/e 527 (M+H)+, 440. IR (KBr) 1701, 1601, 1530, 1510, 1475, Anal calcd for C29H23FN4O3S: C, 66.15; H, 4.40; N, 10.64. Found: C, 64.93; H, 4.14; N, 10.00.

reactant | 3-(pyridin-3-yl)-7-[6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole | N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)C2=CNC1=CC(=CC=C21)C2=CC=C(C=C2)F | C26H18FN3OS
reactant | 3-(Pyridin-3-yl)-7-(6-phenylmethoxyindol-3-yl)carbonyl-1H,3H-pyrrolo[1,2-c]thiazole | N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)C2=CNC1=CC(=CC=C21)OCC2=CC=CC=C2 | C27H21N3O2S
reactant | ethanolamine | C(O)CN | C2H7NO
reactant | KBr | [K+].[Br-]
product | 3-(Pyridin-3-yl)-7-[1-N-(2-hydroxyethyl)carbamoyl-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole | N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)C2=CN(C1=CC(=CC=C21)C2=CC=C(C=C2)F)C(NCCO)=O | C29H23FN4O3S
